US09403798B2
1-(4-Chlorobenzyl)-4-hydroxy-1,3,5-triazin-2(1H)-one
To an N,N-dimethylformamide solution (200 mL) of 1,3,5-triazine-2,4-diol (5.00 g, 44.2 mmol, synthesized according to the method described in Angew. Chem., 74, 354; 1962), sodium hydride (2.12 g, 48.6 mmol, purity 55%) was added at 0° C. and the resultant solution was stirred for 1 hour. To the reaction solution, 4-chlorobenzyl bromide (9.99 g, 48.6 mmol) was added and the resultant solution was stirred at room temperature for 2 hours. After completion of the reaction, saturated ammonium chloride aqueous solution was added thereto, and extraction with ethyl acetate from the resultant mixture was performed. The organic layer was washed with saturated ammonium chloride aqueous solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. To the obtained residue, toluene was added and the solid was collected by filtration, washed with toluene, and dried under reduced pressure to obtain the title compound (1.50 g, yield 14%).

reactant | 1,3,5-triazine-2,4-diol | N1=C(N=C(N=C1)O)O | C3H3N3O2
reactant | sodium hydride | 48.6 mmol, 2.12 g | [H-].[Na+]
reactant | 4-chlorobenzyl bromide | 48.6 mmol, 9.99 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 1-(4-Chlorobenzyl)-4-hydroxy-1,3,5-triazin-2(1H)-one | 1.50 g, yield 14% | ClC1=CC=C(CN2C(N=C(N=C2)O)=O)C=C1 | C10H8ClN3O2
